US06448444B1
Then, 0.47 g of chloroacetoaldehyde oxime, 0.1 ml of concentrated sulflic acid, and 10 ml of diethyl ether are placed in a reaction vessel, into which isobutene gas is blown with stirring under ice cooling, and the stirring is further continued at room temperature. After completion of the reaction, the reaction mixture is slowly poured into saturated aqueous sodium hydrogencarbonate solution, and extracted twice with diethyl ether. The diethyl ether layers are combined, washed with 10% aqueous sodium hydroxide solution and water in this order, dried over anhydrous magnesium sulfate, and concentrated, which affords chloroacetoaldehyde O-tert-butyloxime.

reactant | chloroacetoaldehyde oxime | 0.47 g | ClCC=NO | C2H4ClNO
reactant | isobutene | C=C(C)C | C4H8
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | chloroacetoaldehyde O-tert-butyloxime | C(C)(C)(C)ON=CCCl | C6H12ClNO
